US07786115B2
A suspension of 3-[7-(2-chloroethoxy)-4-methyl-1-oxoisoquinolin-2(1H)-yl]-4-methylbenzoic acid (425 mg) in methylene chloride (8 ml) was cooled to 0° C. and oxalyl chloride (0.2 ml) was added followed by DMF (10 μL) and the reaction mixture was left to stir at room temperature for 1 hour when N,N′-diisopropylethylamine (0.8 ml) and ethylamine (2.28 ml of a 2.0M in THF) were added. The reaction mixture was stirred at room temperature for 17 hours and concentrated. The residue was diluted with ethyl acetate and washed with water (×3), brine, dried (magnesium sulfate) and concentrated to a brown foam which was purified by column chromatography on a silica column eluting using a gradient of iso-hexane to ethyl acetate to give 3-[7-(2-chloroethoxy)-4-methyl-1-oxoisoquinolin-2(1H)-yl]-N-ethyl-4-methylbenzamide as a pale yellow solid (323 mg); NMR Spectrum: (DMSOd6) 1.11 (t, 3H), 2.11 (s, 3H), 2.27 (s, 3H), 3.28 (m, 2H), 4.01 (t, 2H), 4.41 (m, 2H), 7.13 (s, 1H), 7.52 (m, 2H), 7.73-7.78 (m, 3H), 7.89 (d, 1H), 8.50 (t, 1H); Mass Spectrum: M+H+ 399.

reactant | 3-[7-(2-chloroethoxy)-4-methyl-1-oxoisoquinolin-2(1H)-yl]-4-methylbenzoic acid | 425 mg | ClCCOC1=CC=C2C(=CN(C(C2=C1)=O)C=1C=C(C(=O)O)C=CC1C)C | C20H18ClNO4
reactant | oxalyl chloride | 0.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N′-diisopropylethylamine | 0.8 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | ethylamine | C(C)N | C2H7N
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | 10 μL | CN(C)C=O | C3H7NO
product | 3-[7-(2-chloroethoxy)-4-methyl-1-oxoisoquinolin-2(1H)-yl]-N-ethyl-4-methylbenzamide | 323 mg | ClCCOC1=CC=C2C(=CN(C(C2=C1)=O)C=1C=C(C(=O)NCC)C=CC1C)C | C22H23ClN2O3
